US06288086B1
[4-(4-Chloro-phenoxy)-phenylsulfanyl]-acetic acid ethyl ester
A mixture of 4-bromo chlorobenzene (1.92 g, 10 mmol), (4-Hydroxy-phenylsulfanyl)-acetic acid ethyl ester (2.12 g, 10 mmol), sodium hydride (460 mg, 10 mmol) and copper(II) chloride (500 mg) was refluxed in anhydrous pyridine (50 ml) for 12 hrs. The reaction mixture was carefullly quenched with ice cold water and acidified with concentrated HCl. The product was extracted with chloroform, washed well with water; dried and concentrated. The product was purified by silica gel column chromatography by eluting with 30% ethyl acetate:hexane. Yield 2.5 g (77%); Colorless low melting solid; MS: 323 (M+H)+. Alternatively the title compound may be prepared from 4-(4-chloro-phenoxy)-benzenethiol and bromo ethyl acetate as described in example 83.

reactant | 4-bromo chlorobenzene | 10 mmol, 1.92 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | (4-Hydroxy-phenylsulfanyl)-acetic acid ethyl ester | 10 mmol, 2.12 g | C(C)OC(CSC1=CC=C(C=C1)O)=O | C10H12O3S
reactant | sodium hydride | 10 mmol, 460 mg | [H-].[Na+]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) chloride | 500 mg | [Cu](Cl)Cl
product | [4-(4-Chloro-phenoxy)-phenylsulfanyl]-acetic acid ethyl ester | C(C)OC(CSC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O | C16H15ClO3S
